US07297710B1
A) Methyl 4-(bromomethyl)-5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-1H-pyrazole-3-carboxylate
19 g of methyl 5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4-methyl-1H-pyrazole-3-carboxylate is placed in 200 ml of CCl4 and 8.54 g of NBS and then 1 g of benzoyl peroxide are added, heating under reflux overnight. On returning to RT, the precipitate that forms is filtered and washed with CCl4. All of the filtrate is evaporated, then taken up in AcOEt and washed with saturated NaCl solution (twice). It is dried over MgSO4 and evaporated. The expected compound crystallizes in iso ether, it is filtered and dried to obtain 19.4 g of the expected compound.

reactant | methyl 5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4-methyl-1H-pyrazole-3-carboxylate | 19 g | ClC1=CC=C(C=C1)C1=C(C(=NN1C1=C(C=C(C=C1)Cl)Cl)C(=O)OC)C | C18H13Cl3N2O2
reactant | NBS | 8.54 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | 1 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | Methyl 4-(bromomethyl)-5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-1H-pyrazole-3-carboxylate | 19.4 g | BrCC=1C(=NN(C1C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl)C(=O)OC | C18H12BrCl3N2O2
